US09107916B2
C. 2-[5-(benzyloxy)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
To a solution of 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile (186 mg, 1 mmol), phenylmethan-1-ol (216 mg, 2 mmol), and PPh3 (523 mg, 2 mmol) in THF (10 mL) was added dropwise DIAD (402 mg, 2 mmoL) at 0° C. under N2. Then the mixture was stirred at rt overnight. Water was added, and the reaction mixture was extracted with EtOAc, then washed with water and brine. The organic phase was dried, concentrated, and purified by prep-HPLC to afford the title compound (60 mg). 1H NMR (400 MHz, CDCl3): δ 5.25 (2H, s), 5.75 (1H, d, J=2.0 Hz), 7.36-7.44 (5H, m), 7.57 (1H, d, J=2.0 Hz), 8.04 (1H, s), 8.71 (1H, d, J=5.2 Hz). [M+H] Calc'd for C16H12N4O, 277. Found, 277.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | 1 mmol, 186 mg | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | phenylmethan-1-ol | 2 mmol, 216 mg | C1(=CC=CC=C1)CO | C7H8O
reactant | PPh3 | 2 mmol, 523 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 402 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 2-[5-(benzyloxy)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 60 mg | C(C1=CC=CC=C1)OC1=CC=NN1C1=NC=CC(=C1)C#N | C16H12N4O
